US07622469B2
4-Amino-6-octyl-3,6-dihydro-2-(4′-trifluoromethylbenzylamino)-1,3,5-triazine hydrochloride
100 ml of ethanol, 4.4 ml (25.6 mmol) of 1-nonanal and 0.7 ml of concentrated hydrochloric acid were added to 5.0 g (16.9 mmol) of N1-(4-trifluoromethylbenzyl)-biguanide hydrochloride, and the mixture was refluxed for 26 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)) to give a residue, which was dissolved in 80% aqueous ethanol. The solvent was distilled off under reduced pressure, followed by sufficient drying under reduced pressure to obtain 2.3 g of a colorless resinous solid.

reactant | 1-nonanal | 25.6 mmol, 4.4 ml | C(CCCCCCCC)=O | C9H18O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-(4-trifluoromethylbenzyl)-biguanide hydrochloride | 16.9 mmol, 5.0 g | Cl.FC(C1=CC=C(CNC(=N)NC(=N)N)C=C1)(F)F
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Amino-6-octyl-3,6-dihydro-2-(4′-trifluoromethylbenzylamino)-1,3,5-triazine hydrochloride | 2.3 g | Cl.NC=1NC(=NC(N1)CCCCCCCC)NCC1=CC=C(C=C1)C(F)(F)F | InChI=1S/C19H28F3N5.ClH/c1-2-3-4-5-6-7-8-16-25-17(23)27-18(26-16)24-13-14-9-11-15(12-10-14)19(20,21)22;/h9-12,16H,2-8,13H2,1H3,(H4,23,24,25,26,27);1H
